US07842696B2
Aniline (143 mg, 1.5 mmol) was added to a solution of 2-diazo-3-oxo-propionic acid ethyl ester (200 mg, 1.4 mmol) and HAc (0.2 mL) in EtOH (0.5 mL) and stirring was at room temperature overnight. Reaction mixture was concentrated to get the residue. Cold water was then added, filtered the solid precipitated to afford 264 mg (87.41% Yield) of 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester. 1H NMR (CDCl3): δ 8.5 (s, 1H), 7.8 (d, 2H), 7.6-7.48 (m, 3H), 4.5 (q, 2H), 1.4 (t, 3H).

reactant | Aniline | 1.5 mmol, 143 mg | NC1=CC=CC=C1 | C6H7N
reactant | 2-diazo-3-oxo-propionic acid ethyl ester | 1.4 mmol, 200 mg | C(C)OC(C(C=O)=[N+]=[N-])=O | C5H6N2O3
reactant | water | O | H2O
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 264 mg, 87.41% Yield | C(C)OC(=O)C=1N=NN(C1)C1=CC=CC=C1 | C11H11N3O2
